US07642264B2
2-(3-Bromo-phenyl)-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from trifluoro-methanesulfonic acid 6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester (example A.34) (1.0 g, 2.43 mmol) and commercially available 3-bromo-benzene-boronic acid (0.573 g, 2.85 mmol) according to the general procedure IVb. Obtained as a white solid (0.91 g, 89%). MS (ISP) 418.1 [(M+H)+] and 420.1 [(M+2+H)+].

reactant | trifluoro-methanesulfonic acid 6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester | 2.43 mmol, 1.0 g | C1(CC1)C1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C16H11F6NO3S
reactant | 3-bromo-benzene-boronic acid | 2.85 mmol, 0.573 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridine | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C21H15BrF3N
